Test of MOS BSIM1 implementation; DC transfer curve
******************************************************************
MN1 13 2 0 4 NMOS L=10U W=50.0U AD=100P AS=100P PD=40U PS=40U
MN2 23 2 0 5 NMOS L=10U W=50.0U AD=100P AS=100P PD=40U PS=40U
MN3 33 2 0 6 NMOS L=10U W=50.0U AD=100P AS=100P PD=40U PS=40U
MN4 43 2 0 7 NMOS L=10U W=50.0U AD=100P AS=100P PD=40U PS=40U
MN5 53 2 0 8 NMOS L=10U W=50.0U AD=100P AS=100P PD=40U PS=40U
VDS 3 0 0.05
VGS 2 0 0
V1 3 13 0
V2 3 23 0
V3 3 33 0
V4 3 43 0
V5 3 53 0
VBS1 4 0 0
VBS2 5 0 -1
VBS3 6 0 -2
VBS4 7 0 -3
VBS5 8 0 -4
***************************************************************
*.OPTIONS LIMPTS=5000 ACCT
.OPTIONS NOACCT
.DC VGS 0 5 0.01
.PRINT DC I(V1) I(V2) I(V3) I(V4) I(V5)
*.PLOT DC I(V1) I(V2) I(V3) I(V4) I(V5)
*.OPTIONS LIMPTS=501 ACCT
*VGS  2  0  PWL(0 0 5 5)
*.TRAN 0 5 0.01
*.PRINT TRAN I(V1) I(V2) I(V3) I(V4) I(V5)
***** MODEL PARAMETERS TEMP2 ********************
.MODEL  NMOS   NMOS
+           LEVEL = 4.00000E+000
+             TOX = 3.00000E-002
+             VDD = 5.00000E+000
+            TEMP = 2.70000E+001
+              DL = 7.97991E-001
+              DW = 4.77402E-001
+             VFB = -1.0087E+000
+             PHI = 7.96434E-001
+              K1 = 1.31191E+000
+              K2 = 1.46640E-001
+             ETA = -1.0027E-003
+             MUZ = 5.34334E+002
+              U0 = 4.38497E-002
+              U1 = -5.7332E-002
+             X2E = -7.6911E-004
+             X3E = 7.86777E-004
+            X2MZ = 8.25434E+000
+             MUS = 5.40612E+002
+            X2MS = -1.2992E+001
+            X3MS = -9.4035E+000
+            X2U0 = 1.06821E-003
+            X2U1 = -1.9209E-002
+            X3U1 = 7.76925E-003
+            LVFB = -2.1402E-001
+            WVFB = 3.44354E-001
+             LK1 = 3.23395E-001
+             WK1 = -5.7698E-001
+             LK2 = 1.68585E-001
+             WK2 = -1.8796E-001
+            LETA = -9.4847E-003
+            WETA = 1.47316E-002
+             LU0 = 6.38105E-002
+             WU0 = -6.1053E-002
+             LU1 = 1.01174E+000
+             WU1 = 1.62706E-002
+            LX2E = 9.62411E-003
+            WX2E = -3.7951E-003
+            LX3E = 7.35448E-004
+            WX3E = -1.7796E-003
+           LX2MZ = -2.4197E+001
+           WX2MZ = 1.95696E+001
+            LMUS = 6.21401E+002
+            WMUS = -1.9190E+002
+           LX2MS = -6.4900E+001
+           WX2MS = 4.29043E+001
+           LX3MS = 1.18239E+002
+           WX3MS = -2.9747E+001
+           LX2U0 = -8.0958E-003
+           WX2U0 = 4.03379E-003
+           LX2U1 = -7.4573E-002
+           WX2U1 = 1.47520E-002
+           LX3U1 = -1.0940E-001
+           WX3U1 = -8.3353E-003
+              N0 = 1.55
+              NB = 0.09
+              ND = 0.0
+             LN0 = 0.0
+             WN0 = 0.0
+             LNB = 0.0
+             WNB = 0.0
+             LND = 0.0
+             WND = 0.0
+            CGDO = 2.70000E-010
+            CGSO = 2.70000E-010
+            CGBO = 1.40000E-010
+           XPART = 1.0
+             RSH = 35.0
+              CJ = 2.75E-4
+             CJSW = 1.90E-10
+             JS = 1.0E-8
+              PB = 0.7
+             PBSW = 0.8
+              MJ = 0.5
+             MJSW = 0.33
+             WDF = 0.0
*****                                        *****
.END
